US06960575B2
(1RS,2S)-1-(2-Benzothiazolyl)-2-(tert-butoxycarbonyl)amino-3phenyl-1-propanol (Reference compound No. 9-1)
A solution of benzothiazole (0.74 g) in tetrahydrofuran (10 ml) is cooled with dry ice/methanol under a nitrogen atmosphere. A 1.6 M n-butyllithium/hexane solution (3.5 ml) is added dropwise thereto, and the mixture is stirred for 30 minutes. A solution of (2S)-2-(tert-butoxycarbonyl)amino-3-phenyl-1-propanal (1.25 g, Reference compound No. 2-1) in tetrahydrofuran (10 ml) is added to the mixture, and the whole is further stirred for four hours. A saturated aqueous ammonium chloride solution is added to the reaction mixture, the temperature is raised to room temperature, and the whole is stirred for 30 minutes. The reaction mixture is extracted with ethyl acetate, and the extract is washed with water and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled reference compound (0.93 g).

reactant | benzothiazole | 0.74 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | dry ice methanol | C(=O)=O.CO
reactant | n-butyllithium hexane | 1.6 M, 3.5 ml | C(CCC)[Li].CCCCCC
reactant | (2S)-2-(tert-butoxycarbonyl)amino-3-phenyl-1-propanal | C(C)(C)(C)OC(=O)N[C@H](C=O)CC1=CC=CC=C1 | C14H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (1RS,2S)-1-(2-Benzothiazolyl)-2-(tert-butoxycarbonyl)amino-3phenyl-1-propanol | 0.93 g | S1C(=NC2=C1C=CC=C2)C([C@H](CC2=CC=CC=C2)NC(=O)OC(C)(C)C)O | C21H24N2O3S
